US07309800B2
Methyl 5′-(3-furoylamino)-2′-methyl-1,1′-biphenyl-4-carboxylate (980 mg, 2.9 mmol) and lithium hydroxide monohydrate (256 mg, 6.1 mmol) in THF (12 ml) and water (6 ml) were heated at 75° C. for 18 h. The THF was evaporated under vacuum and the aqueous adjusted to pH3 with hydrochloric acid (1M). The precipitate which formed was filtered off, washed with ether and dried under vacuum to give 5′-(3-furoylamino)-2′-methyl-1,1′-biphenyl-4-carboxylic acid (720 mg, 77%). LCMS: retention time 3.33 min, MH+322.

reactant | Methyl 5′-(3-furoylamino)-2′-methyl-1,1′-biphenyl-4-carboxylate | 2.9 mmol, 980 mg | O1C=C(C=C1)C(=O)NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)OC)C | C20H17NO4
reactant | lithium hydroxide monohydrate | 6.1 mmol, 256 mg | O.[OH-].[Li+]
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | water | 6 ml | O | H2O
product | 5′-(3-furoylamino)-2′-methyl-1,1′-biphenyl-4-carboxylic acid | 720 mg, 77% | O1C=C(C=C1)C(=O)NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)O)C | C19H15NO4
